US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-1-(6-amino-3-fluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 190 mg of N,N-dimethylformamide were added 57 mg of 1-(6-amino-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 37 mg of 3-aminoazetidine dihydrochloride, and 100 mg of N-methylpyrrolidine, and the mixture was stirred at 90° C. for 30 minutes. After adding 0.2 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 40 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 190 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 57 mg | NC1=CC=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C15H7ClF3N3O3
reactant | 3-aminoazetidine dihydrochloride | 37 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 100 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-1-(6-amino-3-fluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 40 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=CC=C1F)N)C(=O)O)=O)F | C18H14ClF2N5O3
